data/oMe_Silver.jsonl
{"reaction_id": "NR-335_1-c2ccccc2_2-C#N_3-Cl_4-CC(C)C_5-C#N_6-CC_7-CC","level": "medium","name": "Robinson Annulation","reactants_smiles": ["C(=C(Cl)C(=O)CC(C)C)(c2ccccc2)C#N","C(C#N)(CC)C(=O)CC"],"products_smiles": ["C1(=C(CC(C)C)C(=O)C(C(c2ccccc2)(C#N)C1(C#N)CC)Cl)CC"],"conditions": "Catalytic base","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C#N)CC)([O-])CC","step_weight": 0,"rationale": "The base abstracts an α-proton adjacent to the carbonyl, generating a resonance-stabilized enolate due to delocalization over the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)(C(C(c2ccccc2)(C#N)C(=C([O-])CCC(C)C)Cl)(C#N)CC)CC","step_weight": 0,"rationale": "The nucleophilic enolate attacks the β-carbon of the α,β-unsaturated carbonyl via Michael addition, favored by conjugation and electrophilicity at the β-position."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(c2ccccc2)(C#N)C(Cl)C(=O)CCC(C)C)(C#N)CC)CC","step_weight": 0,"rationale": "Protonation of the enolate oxygen regenerates a neutral carbonyl, stabilizing the intermediate and preparing for further enolate formation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(c2ccccc2)(C#N)C(Cl)C([O-])=CCC(C)C)(C#N)CC)CC","step_weight": 0,"rationale": "The base deprotonates another α-position, forming a new enolate that is positioned for intramolecular nucleophilic attack."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(CC(C)C)C(=O)C(C(c2ccccc2)(C#N)C1(C#N)CC)Cl)(CC)[O-]","step_weight": 0,"rationale": "The enolate attacks the intramolecular carbonyl, forming a six-membered ring via aldol cyclization, favored by minimal ring strain."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(CC(C)C)=C([O-])C(C(c2ccccc2)(C#N)C1(C#N)CC)Cl)(CC)O","step_weight": 0,"rationale": "Proton transfer converts the alkoxide intermediate into a β-hydroxy carbonyl, setting up for elimination."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=C(CC(C)C)C(=O)C(C(c2ccccc2)(C#N)C1(C#N)CC)Cl)CC","step_weight": 0,"rationale": "Base-induced elimination of water forms the α,β-unsaturated carbonyl, driven by conjugation and thermodynamic stability of the enone."}],"description": "Under basic conditions, the Robinson annulation proceeds via enolate formation, Michael addition to an α,β-unsaturated carbonyl, followed by intramolecular aldol condensation and dehydration. The base promotes enolate generation, facilitates C–C bond formation, and drives cyclization to the conjugated cyclohexenone product."}
